US09278915B2
Compound 119: 3-hydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}propanoic acid
To a stirring solution of methyl 3-hydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}propanoate (0.015 g, 0.0334 mmol) in the mixture of THF and Ethanol was added NaOH (0.003 g, 0.075 mmol) in 0.5 mL of water at 0° C., then stirred at RT for 2 h. After the completion of the SM reaction mass was concentrated under vacuum to remove solvents and diluted with water. Aqueous portion was neutralized with 1N HCl up to neutral pH, then extracted with ethyl acetate organic layer was washed with water and brine, dried over anhydrous Na2SO4. Evaporation under vacuum yields the titled compound as white solid (0.008 g, yield: 13.70%). Purity: 96.8%.

reactant | methyl 3-hydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}propanoate | 0.0334 mmol, 0.015 g | OC(CC(=O)OC)C1=CC=C(C=C1)OCC1=CC=C(C=C1)OC\C(\C1=CC=CC=C1)=N/OC | C26H27NO6
reactant | THF | C1CCOC1 | C4H8O
reactant | Ethanol | C(C)O | C2H6O
reactant | NaOH | 0.075 mmol, 0.003 g | [OH-].[Na+]
solvent | water | 0.5 mL | O | H2O
product | 3-hydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}propanoic acid | 0.008 g, yield: 13.70% | OC(CC(=O)O)C1=CC=C(C=C1)OCC1=CC=C(C=C1)OC\C(\C1=CC=CC=C1)=N/OC | C25H25NO6
